US05104994
A solution of 5-bromo-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulphonylpyrazole (3.0 g) in dry tetrahydrcfuran (32 ml , stirred under nitrogen at -78° C., was treated with a solution of n-butyllithium in hexane (2.8 ml of a 2.5M solution) over a period of 5 minutes. After 1 hour at -78° C., a solution of benzyl thiocyanate (0.95 g) in tetrahydrofuran (2 ml) was added. The stirred mixture was allowed to warm slowly to room temperature during 16 hours, then poured onto ice/water 50 ml) and extracted with ether (3×50 ml). The combined extracts were dried over anhydrous magnesium sulphate, evaporated in vacuo, and purified by chromatography, eluting with ethyl acetate/hexane (2:98). The product was triturated with hexane to give 5-benzylthio-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulphonylpyrazole (0.25 g), as a white solid, m.p. 117°-119° C.

reactant | 5-bromo-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulphonylpyrazole | 3.0 g | BrC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)(=O)C(F)(F)F | C12H2BrCl2F6N3O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | benzyl thiocyanate | 0.95 g | C(C1=CC=CC=C1)SC#N | C8H7NS
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 5-benzylthio-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulphonylpyrazole | 0.25 g | C(C1=CC=CC=C1)SC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)(=O)C(F)(F)F | C19H9Cl2F6N3O2S2
